US08404694B2
To a mixture of cesium carbonate (0.606 g, 1.86 mmol) and 4-aminobenzenethiol (116 mg, 0.930 mmol) in DMF (3 mL) at RT was added 7-chloro-2-cyclopropylpyrazolo[1,5-a]pyrimidine (0.180 g, 0.930 mmol). The mixture was heated to 60° C. After 2 hrs the mixture was cooled to RT, diluted with EtOAc, and washed with water and brine. After drying the organic fraction with sodium sulfate, the solvent was removed in vacuo to afford 4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)benzenamine, which was advanced without further purification. MS: Found M+H+=283.1.

reactant | cesium carbonate | 1.86 mmol, 0.606 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-aminobenzenethiol | 0.930 mmol, 116 mg | NC1=CC=C(C=C1)S | C6H7NS
reactant | 7-chloro-2-cyclopropylpyrazolo[1,5-a]pyrimidine | 0.930 mmol, 0.180 g | ClC1=CC=NC=2N1N=C(C2)C2CC2 | C9H8ClN3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ylthio)benzenamine | C1(CC1)C1=NN2C(N=CC=C2SC2=CC=C(C=C2)N)=C1 | C15H14N4S
